US04722926
The procedure described in Example 2 was followed, using 2.5 g of 3,4,5-trimethoxyphenyl isocyanate, 4.4 g of 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride, 1.2 g of triethylamine and 50 ml of methylene chloride, to give 1.6 g (23% of theory) of N-(3,4,5-trimethoxyphenyl)-S-{3-[4-(4-chlorophenethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 239°-241° C.

reactant | 3,4,5-trimethoxyphenyl isocyanate | 2.5 g | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
reactant | 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride | 4.4 g | Cl.Cl.ClC1=CC=C(CCN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3,4,5-trimethoxyphenyl)-S-{3-[4-(4-chlorophenethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.6 g, 23% | Cl.Cl.COC=1C=C(C=C(C1OC)OC)NC(O)=SCCCN1CCN(CC1)CCC1=CC=C(C=C1)Cl | InChI=1S/C25H36ClN3O4S.2ClH/c1-31-22-17-21(18-23(32-2)24(22)33-3)27-25(30)34-16-4-10-28-12-14-29(15-13-28)11-9-19-5-7-20(26)8-6-19;;/h5-8,17-18,27,30,34H,4,9-16H2,1-3H3;2*1H
